US04680310
A fifth of a solution of 20.6 g of 3,4-dihydro-5,8-dimethoxy-2(1H)-naphthalenone and 18.4 g of ethyl bromoacetate in 100 ml of toluene/benzene (1:1) was added to 7.4 g of activated zinc dust. An exothermic reaction set in after heating to reflux for a few minutes. The remainder of the solution was then added dropwise within 10 minutes. The reaction mixture was then heated to reflux for 11/2 hours, cooled and partitioned between 300 ml of benzene and 300 ml of 3N aqueous sulfuric acid. The organic phase was washed with water and saturated aqueous sodium bicarbonate solution and evaporated. The residue was dissolved in 200 ml of methanol, treated with a solution of 10 g of sodium hydroxide in 100 ml of water and the mixture was heated to reflux for 3 hours. The solution was concentrated to half of the volume, treated with 500 ml of water and the neutral constituents were extracted with 500 ml of chloroform. The aqueous phase was made acid with sulfuric acid and the product was extracted in 900 ml of ether. The extract was dried over magnesium sulfate and evaporated. Recrystallization of the residue yielded 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneacetic acid, m.p. 112°-114°.

reactant | 3,4-dihydro-5,8-dimethoxy-2(1H)-naphthalenone | 20.6 g | COC1=C2CCC(CC2=C(C=C1)OC)=O | C12H14O3
reactant | ethyl bromoacetate | 18.4 g | BrCC(=O)OCC | C4H7BrO2
solvent | toluene benzene | 100 ml | C1(=CC=CC=C1)C.C1=CC=CC=C1
catalyst | zinc | 7.4 g | [Zn] | Zn
product | 5,8-dimethoxy-1,2,3,4-tetrahydro-2-hydroxy-2-naphthaleneacetic acid | COC1=C2CCC(CC2=C(C=C1)OC)(CC(=O)O)O | C14H18O5
